US08835631B2
(3) Synthesis of 5-(tert-butyldimethylsilanyloxymethyl)-pyridine-2-carbonitrile
5-(Hydroxymethyl)pyridine-2-carbonitrile (258 mg) was dissolved in dimethylformamide (8 ml), tert-butyl dimethylchlorosilane (347 mg) and imidazole (326 mg) were added, and the mixture was stirred at room temperature for 1% hr. Water (20 ml) was added and the mixture was stirred, extracted with ethyl acetate (once with 50 ml and once with 20 ml), washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by column chromatography (Yamazen HI-FLASH™ COLUMN size 2 L, elution solvent: hexane/ethyl acetate) to give the title compound (405 mg).

reactant | 5-(Hydroxymethyl)pyridine-2-carbonitrile | 258 mg | OCC=1C=CC(=NC1)C#N | C7H6N2O
reactant | tert-butyl dimethylchlorosilane | 347 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 326 mg | N1C=NC=C1 | C3H4N2
reactant | Water | 20 ml | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 5-(tert-butyldimethylsilanyloxymethyl)-pyridine-2-carbonitrile | 405 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)C#N | C13H20N2OSi
